US04559403
A mixture of 430 g (1.0 mole) of 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid ethyl ester, 4300 ml of acetonitrile and 430 g of phosphorus oxychloride was refluxed for 1 hour and evaporated in vacuo. Crystallization of the residue from ethanol provided 399 g of the hydrochloride 3,4-dihydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-4-isoquinoline carboxylic acid ethyl ester as a yellow solid, mp 213°-214° dec.

reactant | 2-(3,4-dimethoxyphenyl)-3-{{[(3,4-dimethoxyphenyl)methyl]carbonyl}amino}propanoic acid ethyl ester | 1.0 mole, 430 g | C(C)OC(C(CNC(=O)CC1=CC(=C(C=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C23H29NO7
reactant | phosphorus oxychloride | 430 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 4300 ml | C(C)#N | C2H3N
product | hydrochloride 3,4-dihydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]-4-isoquinoline carboxylic acid ethyl ester | 399 g | C(C)OC(=O)C1CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=C(C=C1)OC)OC.Cl | InChI=1S/C23H27NO6.ClH/c1-6-30-23(25)17-13-24-18(9-14-7-8-19(26-2)20(10-14)27-3)16-12-22(29-5)21(28-4)11-15(16)17;/h7-8,10-12,17H,6,9,13H2,1-5H3;1H
